US03950525
4-Diethylamino-6-(m-acetylaminopheny)pyrimidine hydrochloride
To 5.6 g. (0.022 mole) of 4-diethylamino-6-(m-aminophenyl)pyrimidine is slowly added, with cooling, 25 ml. of acetic anhydride. The resulting solution is stirred overnight at room temperature and is then diluted with 500 ml. of ethyl acetate amd treated with sufficient gaseous hydrogen chloride to complete the precipitation of the desired product. The solvent and excess acetic anhydride are removed under reduced pressure and the residue washed from the flask with 20 ml. of 1:1 hexane/ethyl acetate 6.6 g., m.p. 235°-237° C. It proves to be identical to that prepared by the Acid Chloride Method.

reactant | 4-diethylamino-6-(m-aminophenyl)pyrimidine | 0.022 mole | C(C)N(C1=NC=NC(=C1)C1=CC(=CC=C1)N)CC | C14H18N4
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Diethylamino-6-(m-acetylaminopheny)pyrimidine hydrochloride | Cl.C(C)N(C1=NC=NC(=C1)C1=CC(=CC=C1)NC(C)=O)CC | InChI=1S/C16H20N4O.ClH/c1-4-20(5-2)16-10-15(17-11-18-16)13-7-6-8-14(9-13)19-12(3)21;/h6-11H,4-5H2,1-3H3,(H,19,21);1H
